US08802713B2
1.1 g of ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole-5-carboxylate was dissolved in 30 mL of toluene, followed by cooling to −78° C., and 2.6 mL of a toluene solution (1.0 mol/L) of diisobutyl aluminum hydride was slowly dropwise added. After stirring for 3 hours, a saturated aqueous solution of ammonium chloride was added, extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:3) to obtain 0.95 g of 5-formyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole (1H-NMR (CDCL3/TMS δ (ppm) value) δ: 2.56 (3H, s), 3.39 (2H, q), 6.05 (1H, dt), 6.85 (1H, s), 7.17 (1H, d), 7.66 (1H, d), 9.72 (1H, d)).

reactant | ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole-5-carboxylate | 1.1 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C(=O)OCC)OC(C(OC(F)(F)F)F)(F)F | C18H14F10N2O4S
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.0 mol/L, 2.6 mL | C1(=CC=CC=C1)C | C7H8
product | 5-formyl-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-{1,1,2-trifluoro-2-(trifluoromethoxy)ethoxy}pyrazole | 0.95 g | C(=O)C1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OC(C(OC(F)(F)F)F)(F)F | C16H10F10N2O3S
